US07723367B2
2-(2-phenoxy-phenyl)nicotinonitrile
Prepared in 50% yield from 2-chloro-3-cyanopyridine and 2-phenoxyphenylboronic acid according to the procedure described for Example 153A. MS (ESI−) m/z 273.0 (M+H)+; 1H NMR (CDCl3) δ 6.94 (d, J=7.1 Hz, 1H), 7.06-7.11 (m, 3H), 7.20-7.44 (m, 5H), 7.54 (dd, J=7.5, 1.7 Hz, 1H), 8.00 (dd, J=8.1, 2.0 Hz, 1H), 8.86 (dd, J=5.1, 1.7 Hz, 1H).

reactant | 2-chloro-3-cyanopyridine | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 2-phenoxyphenylboronic acid | O(C1=CC=CC=C1)C1=C(C=CC=C1)B(O)O | C12H11BO3
product | 2-(2-phenoxy-phenyl)nicotinonitrile | 50% yield | O(C1=CC=CC=C1)C1=C(C=CC=C1)C1=C(C#N)C=CC=N1 | C18H12N2O
